US07691850B2
f) 5-({[2-bromo-4-fluoro-5-(methyloxy)phenyl]amino}methylidene)-2,2-dimethyl-1,3-dioxane-4,6-dione
A mixture of 2-bromo-4-fluoro-(methyloxy)aniline (15 g, 68 mmol), 2,2-dimethyl-[1,3]dioxane-4,6-dione (11.8 g, 82 mmol) and trimethylorthoformate (13.6 mL) in ethanol (70 mL) was refluxed for 3 hours. After cooling, the solid was filtered off, washed with ethanol and air dried. To give the product (23.3 g, 92%) as a white solid. LC-MS (ES) (M+H)+ m/z=374.

reactant | 2-bromo-4-fluoro-(methyloxy)aniline | 68 mmol, 15 g | BrC1=C(NOC)C=CC(=C1)F | C7H7BrFNO
reactant | 2,2-dimethyl-[1,3]dioxane-4,6-dione | 82 mmol, 11.8 g | CC1(OC(CC(O1)=O)=O)C | C6H8O4
reactant | trimethylorthoformate | 13.6 mL | COC(OC)OC | C4H10O3
reactant | ethanol | 70 mL | C(C)O | C2H6O
product | 5-({[2-bromo-4-fluoro-5-(methyloxy)phenyl]amino}methylidene)-2,2-dimethyl-1,3-dioxane-4,6-dione | 23.3 g, 92% | BrC1=C(C=C(C(=C1)F)OC)NC=C1C(OC(OC1=O)(C)C)=O | C14H13BrFNO5
